US07772226B2
(d) t-Butyl 4-[6-benzyloxymethyl-1-(2-butynyl)-7-oxo-6,7-dihydro-1H-imidazo[4,5-d]pyridazin-2-yl]piperazine-1-carboxylate
0.74 g of potassium carbonate and 0.078 g of 2-butynyl bromide were added to a 20-ml N,N-dimethylformamide solution of 0.216 g of t-butyl 4-(6-benzyloxymethyl-7-oxo-6,7-dihydro-1H-imidazo[4,5-d]pyridazin-2-yl)piperazine-1-carboxylate and the mixture was stirred at room temperature for 16 hours. Then, 50 ml of ethyl acetate was added to the solution. The organic layer was washed three times with 20 ml of water, and then with 10 ml of a saturated sodium chloride solution. The solution was dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography. Thus, 0.139 g of the title compound was obtained from the fraction eluted with hexane-ethyl acetate (3:2).

reactant | potassium carbonate | 0.74 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-butynyl bromide | 0.078 g | C(C#CC)Br | C4H5Br
reactant | N,N-dimethylformamide | 20-ml | CN(C=O)C | C3H7NO
reactant | t-butyl 4-(6-benzyloxymethyl-7-oxo-6,7-dihydro-1H-imidazo[4,5-d]pyridazin-2-yl)piperazine-1-carboxylate | 0.216 g | C(C1=CC=CC=C1)OCN1N=CC2=C(C1=O)NC(=N2)N2CCN(CC2)C(=O)OC(C)(C)C | C22H28N6O4
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | t-Butyl 4-[6-benzyloxymethyl-1-(2-butynyl)-7-oxo-6,7-dihydro-1H-imidazo[4,5-d]pyridazin-2-yl]piperazine-1-carboxylate | 0.139 g | C(C1=CC=CC=C1)OCN1N=CC2=C(C1=O)N(C(=N2)N2CCN(CC2)C(=O)OC(C)(C)C)CC#CC | C26H32N6O4
